US07429660B2
[4-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-thianthren-1-yloxy]-acetic acid sodium salt
To a solution of [4-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-thianthren-1-yloxy]-acetic acid methyl ester (1.41 g, 2.91 mmol) in anhydrous methanol (10 ml) was added sodium hydroxide (120 mg, 2.91 mmol) in a single portion. The solution was then stirred at room temperature for 24 hours whereupon the solvent was removed in vacuo to give the title compound as an off white paste (1.43 g, 98%) that required no further purification. m/z (LC-MS, ESP): RT=3.79 min, (M−−23)=468

reactant | [4-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-thianthren-1-yloxy]-acetic acid methyl ester | 2.91 mmol, 1.41 g | COC(COC1=CC=C(C=2SC3=CC=CC=C3SC12)C=1OC(=CC(C1)=O)N1CCOCC1)=O | C24H21NO6S2
reactant | sodium hydroxide | 2.91 mmol, 120 mg | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | [4-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-thianthren-1-yloxy]-acetic acid sodium salt | [Na+].N1(CCOCC1)C1=CC(C=C(O1)C1=CC=C(C=2SC3=CC=CC=C3SC12)OCC(=O)[O-])=O | InChI=1S/C23H19NO6S2.Na/c25-14-11-17(30-20(12-14)24-7-9-28-10-8-24)15-5-6-16(29-13-21(26)27)23-22(15)31-18-3-1-2-4-19(18)32-23;/h1-6,11-12H,7-10,13H2,(H,26,27);/q;+1/p-1
